US06982348B2
To a solution of ethyl (2RS,3RS)-3-(3-furanyl)-3-hydroxy-2-((4-(trifluoromethyl)phenyl)methyl)propionate (19.0 g, 55.5 mmol) in methanol (100 ml) was added 2N aqueous sodium hydroxide solution (55.5 ml, 111 mmol) and the mixture was stirred overnight at room temperature. The reaction solution was acidified with 1N hydrochloric acid and extracted with ethyl acetate (200 ml×2). The extract was washed with water and saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was recrystallized from diisopropyl ether-hexane to give (2RS,3RS)-3-(3-furanyl)-3-hydroxy-2-((4-(trifluoromethyl)phenyl)methyl)propionic acid (15.1 g, 86%).

reactant | ethyl (2RS,3RS)-3-(3-furanyl)-3-hydroxy-2-((4-(trifluoromethyl)phenyl)methyl)propionate | 55.5 mmol, 19.0 g | O1C=C(C=C1)C(C(C(=O)OCC)CC1=CC=C(C=C1)C(F)(F)F)O | C17H17F3O4
reactant | sodium hydroxide | 111 mmol, 2N, 55.5 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
product | (2RS,3RS)-3-(3-furanyl)-3-hydroxy-2-((4-(trifluoromethyl)phenyl)methyl)propionic acid | 15.1 g, 86% | O1C=C(C=C1)C(C(C(=O)O)CC1=CC=C(C=C1)C(F)(F)F)O | C15H13F3O4
